US03997536
6.3 G. of 4-chloro-5-cyano-2-(4-n-pentylphenyl)-pyrimidine are reacted in 290 ml. of 50% dioxane with 25.3 g. of pre-treated zinc dust and worked up after the reaction in a manner analogous to that described in Example 13. There is obtained 5-cyano-2-(4-n-pentylphenyl)-pyrimidine as colorless crystals having a melting point of 96.0°-96.2° C. and clearing point of 109.0° C. The substance is identical with the compound obtained according to Example 9.

reactant | 4-chloro-5-cyano-2-(4-n-pentylphenyl)-pyrimidine | ClC1=NC(=NC=C1C#N)C1=CC=C(C=C1)CCCCC | C16H16ClN3
catalyst | zinc | [Zn] | Zn
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-cyano-2-(4-n-pentylphenyl)-pyrimidine | C(#N)C=1C=NC(=NC1)C1=CC=C(C=C1)CCCCC | C16H17N3
